US04061761
a. 4'-Chloro-3'-o-chlorobenzylsulfamoylacetophenone
25.5 g of 4'-chloro-3'-chlorosulfonylacetophenone were reacted with 16 g of o-chloro-benzyl amine and 25.5 g of triethyl amine and worked up. Colorless crystals from isopropanol (active charcoal), melting point: 102° C.

reactant | 4'-chloro-3'-chlorosulfonylacetophenone | 25.5 g | ClC1=C(C=C(C=C1)C(C)=O)S(=O)(=O)Cl | C8H6Cl2O3S
reactant | o-chloro-benzyl amine | 16 g | ClC1=C(CN)C=CC=C1 | C7H8ClN
reactant | triethyl amine | 25.5 g | C(C)N(CC)CC | C6H15N
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4'-Chloro-3'-o-chlorobenzylsulfamoylacetophenone | ClC1=C(C=C(C=C1)C(C)=O)S(NCC1=C(C=CC=C1)Cl)(=O)=O | C15H13Cl2NO3S
